US07381730B2
A mixture of 100 mg (0.32 mmol) of 5,7-dimethoxy-3-(4-methoxyphenyl)-4(3H)-quinazolinone as prepared in Example 18 or 19, and 524 mg (6.24 mmol) of sodium ethanethiolate in 2 ml of DMF was refluxed for 3.5 hr. DMF was evaporated and the residue dissolved in water. Concentrated HCl was added to adjust the pH to 5. The precipitate was filtered, dried and purified by chromatography on silica gel (loaded with CH2Cl2 and a slight amount of MeOH, eluted with 70% EtOAc in hexane) to yield 51 mg of 5,7-dihydroxy-3-(4-hydroxyphenyl)-4(3H)-quinazolinone (59%) as an off-white solid.

reactant | 5,7-dimethoxy-3-(4-methoxyphenyl)-4(3H)-quinazolinone | 0.32 mmol, 100 mg | COC1=C2C(N(C=NC2=CC(=C1)OC)C1=CC=C(C=C1)OC)=O | C17H16N2O4
reactant | sodium ethanethiolate | 6.24 mmol, 524 mg | C(C)[S-].[Na+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 5,7-dihydroxy-3-(4-hydroxyphenyl)-4(3H)-quinazolinone | 51 mg, 59% | OC1=C2C(N(C=NC2=CC(=C1)O)C1=CC=C(C=C1)O)=O | C14H10N2O4
